US05252582
100 g (0.66 mol) of 1-chloro-cyclopropyl chloromethyl ketone in 80 ml of acetonitrile are added dropwise to a refluxing suspension of 83 g (0.6 mol) of potassium carbonate and 58 g (0.84 mol) of triazole in 330 ml of acetonitrile. The mixture is refluxed for 8 hours and then filtered off with suction and concentrated. The residue is taken up in ethyl acetate/toluene, and the mixture is washed with water, dried over sodium sulphate and concentrated. The subsequent purification by column chromatography in which dichloromethane was used as the mobile phase gave 62 g (51% of theory) of 1-(1-chlorocyclopropyl)-2-(1,2,4-triazol-1-yl)-ethan-1-one.

reactant | 1-chloro-cyclopropyl chloromethyl ketone | 0.66 mol, 100 g | ClCC(=O)C1(CC1)Cl | C5H6Cl2O
reactant | potassium carbonate | 0.6 mol, 83 g | C([O-])([O-])=O.[K+].[K+]
reactant | triazole | 0.84 mol, 58 g | N1N=NC=C1 | C2H3N3
reactant | acetonitrile | 80 ml | C(C)#N | C2H3N
reactant | acetonitrile | 330 ml | C(C)#N | C2H3N
product | 1-(1-chlorocyclopropyl)-2-(1,2,4-triazol-1-yl)-ethan-1-one | 62 g, 51% | ClC1(CC1)C(CN1N=CN=C1)=O | C7H8ClN3O
